US05700819
To a solution of N-[3-(4,5,7-trifluorobenzothiazol-2-yl)-1-thioxopropyl]-N-methylglycine ethyl ester (190 mg, 0.5 mmol) in a mixture of water (3 ml) and dioxane (6 ml) was added dropwise 2N sodium hydroxide (0.6 mmol) with stirring under ice-cooling and the mixture was stirred for 1 hour at room temperature, then diluted with water and washed with ether. The aqueous phase was acidified with 7% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried and then evaporated to yield a residue, which was crystallized from isopropyl ether to give N-[3-(4,5,7-trifluorobenzothiazol-2-yl)-1-thioxopropyl]-N-methylglycine (155 mg, 88%) as a pale brown powder.

reactant | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)-1-thioxopropyl]-N-methylglycine ethyl ester | 0.5 mmol, 190 mg | C(C)OC(CN(C)C(CCC=1SC2=C(N1)C(=C(C=C2F)F)F)=S)=O | C15H15F3N2O2S2
reactant | sodium hydroxide | 0.6 mmol, 2N | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)-1-thioxopropyl]-N-methylglycine | 155 mg, 88% | FC1=C(C=C(C2=C1N=C(S2)CCC(=S)N(CC(=O)O)C)F)F | C13H11F3N2O2S2
